US05097015
U.S. Pat. No. 3,671,542 also describes that a copolyamide from p-phenylenediamine+4,4'-diaminobenzanilide (1:1) and terephthaloyl chloride+dibenzoyl chloride or 2,6-naphthaloyl chloride (1:1) becomes gel-like in amide solvents within a short period of time. The properties of the filaments (spun from sulfuric acid) are moderate. Only a 6-component polymer from (p-phenylenediamine+1,5-diaminonaphthalene+4,4'-diaminobenzanilide) and (terephthaloyl chloride+2,6-naphthaloyl dichloride+dibenzoyl chloride) gives a homogeneous solution in amide solvents. The properties of the filaments spun from sulfuric acid are moderate.

reactant | p-phenylenediamine 4,4'-diaminobenzanilide | C1=CC(=CC=C1N)N.NC1=CC=C(C(=O)NC2=CC=C(C=C2)N)C=C1
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | p-phenylenediamine 1,5-diaminonaphthalene 4,4'-diaminobenzanilide | C1=CC(=CC=C1N)N.NC1=CC=CC2=C(C=CC=C12)N.NC1=CC=C(C(=O)NC2=CC=C(C=C2)N)C=C1 | InChI=1S/C13H13N3O.C10H10N2.C6H8N2/c14-10-3-1-9(2-4-10)13(17)16-12-7-5-11(15)6-8-12;11-9-5-1-3-7-8(9)4-2-6-10(7)12;7-5-1-2-6(8)4-3-5/h1-8H,14-15H2,(H,16,17);1-6H,11-12H2;1-4H,7-8H2
